US08071588B2
A solution of 3-({[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)-3-oxopropanoic acid (0.600 g, 1.541 mmol), 1-(3-bromo-4-fluorophenyl)methanamine (0.432 g, 1.796 mmol), HATU (0.760 g, 1.999 mmol) and triethylamine (0.600 mL, 4.30 mmol) in dichloromethane (35 mL) was stirred overnight at room temperature. The solution was diluted with DCM, washed with saturated NaHCO3, water followed by saturated NaCl, and dried over Na2SO4. The organic layer was evaporated to a pale amber residue. This was purified on 80 g. Combi-Flash column with DCM [0-8% MeOH] to give N-[(3-bromo-4-fluorophenyl)methyl]-N′-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}propanediamide (942.9 mg, 106%, containing 12% impurities). LC-MS m/z 575.3 (M+H)+, 0.84 min (ret time).

reactant | 3-({[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)-3-oxopropanoic acid | 1.541 mmol, 0.600 g | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(CC(=O)O)=O)CC | C19H27N5O4
reactant | 1-(3-bromo-4-fluorophenyl)methanamine | 1.796 mmol, 0.432 g | BrC=1C=C(C=CC1F)CN | C7H7BrFN
reactant | HATU | 1.999 mmol, 0.760 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | triethylamine | 4.30 mmol, 0.600 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 35 mL | ClCCl | CH2Cl2
solvent | DCM | C(Cl)Cl | CH2Cl2
product | N-[(3-bromo-4-fluorophenyl)methyl]-N′-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}propanediamide | 942.9 mg | BrC=1C=C(C=CC1F)CNC(CC(=O)NCC=1C(=C2C(=NC1CC)N(N=C2)CC)NC2CCOCC2)=O | C26H32BrFN6O3
